US03974144
Following the procedure described in Example 6 above but using sodium phenolate in place of methyl alcohol and 5-methoxy-2[4-(3-carboxystyryl) phenyl]benzofuran instead of 5-chloro-2-[4-(4-carboxystyryl)phenyl]benzofuran, there is obtained as the product 5-methoxy-2-[4-(3-carbophenoxystyryl)phenyl]benzofuran.

reactant | sodium phenolate | C1(=CC=CC=C1)[O-].[Na+]
reactant | 5-methoxy-2[4-(3-carboxystyryl) phenyl]benzofuran | COC=1C=CC2=C(C=C(O2)C2=CC=C(C=C2)C=CC2=CC(=CC=C2)C(=O)O)C1 | C24H18O4
product | 5-methoxy-2-[4-(3-carbophenoxystyryl)phenyl]benzofuran | COC=1C=CC2=C(C=C(O2)C2=CC=C(C=C2)C=CC2=CC(=CC=C2)C(=O)OC2=CC=CC=C2)C1 | C30H22O4
